US07585885B2
2-chloro-N,N-dipropylisonicotinamide
Stir a solution of 2-chloroisonicotinic acid (1.0 g, 6.3 mmol), 1-hydroxybenzotriazole (850 mg, 6.3 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (1.21 g, 6.3 mmol), dipropyl amine (862 μL, 6.3 mmol), and triethylamine (1.75 mL, 12.6 mmol) in dichloromethane (63 mL) at room temperature over the weekend. Wash the solution with 0.1 N citric acid (2×50 mL), saturated aqueous sodium bicarbonate (50 mL), saturated aqueous sodium chloride (50 mL), dry (sodium sulfate), concentrate and purify (silica gel chromatography, eluting with 10:90 to 20:80 ethyl acetate:hexanes) to give the title compound (1.16 g, 76%).

reactant | 2-chloroisonicotinic acid | 6.3 mmol, 1.0 g | ClC=1C=C(C(=O)O)C=CN1 | C6H4ClNO2
reactant | 1-hydroxybenzotriazole | 6.3 mmol, 850 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 6.3 mmol, 1.21 g | Cl.CN(CCCN=C=NCC)C
reactant | dipropyl amine | 6.3 mmol, 862 μL | C(CC)NCCC | C6H15N
reactant | triethylamine | 12.6 mmol, 1.75 mL | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 63 mL | ClCCl | CH2Cl2
product | 2-chloro-N,N-dipropylisonicotinamide | 1.16 g, 76% | ClC=1C=C(C(=O)N(CCC)CCC)C=CN1 | C12H17ClN2O
